### ISSUE TITLE
`omega` doesn't understand `n ≠ 0`

### ISSUE THREAD

**Issue by girving** [leanprover/std4#482]
`omega` doesn't understand that, for `n : ℕ`, `0 < n` is the same as `n ≠ 0`:

```
import Mathlib.Data.Nat.Order.Basic

-- A true lemma
lemma right {t i : ℕ} (t0 : t ≠ 0) (h : i < 64) : i + t - 64 < t := by
  simp only [add_comm _ t, ←tsub_tsub_eq_add_tsub_of_le h.le, imp_false, not_le]
  apply Nat.sub_lt (Nat.pos_of_ne_zero t0) (Nat.sub_pos_of_lt h)

-- `omega` fails to prove it
lemma wrong {t i : ℕ} (t0 : t ≠ 0) (h : i < 64) : i + t - 64 < t := by omega

-- `omega` works if we use `0 <` instead of `≠ 0`
lemma better {t i : ℕ} (t0 : 0 < t) (h : i < 64) : i + t - 64 < t := by omega
```

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/239415-metaprogramming-.2F-tactics/topic/A.20simple.20result.20that.20.60omega.60.20fails.20to.20prove/near/409899644)

**Comment by kbuzzard** [comment]
More minimised: presumably `omega` should be able to do this?
```lean
import Mathlib.Data.Nat.Order.Basic

example (t : Nat) (ht : t ≠ 0) : 0 < t := by omega
/-
omega did not find a contradiction:
trivial
-/
```

**Comment by mirefek** [comment]
It turns out that omega can handle disjunction, so it should be sufficient to replace (a ≠ b) with (a < b ∨ a > b) during preprocessing.
